US05482966
Using an analogous procedure to that described in Example 66, 4'-{4-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]thien-2-ylthio}acetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-{4-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]thien-2-ylthio}acetophenone oxime in 87% yield, m.p. 105°-107° C.

reactant | 4'-{4-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]thien-2-ylthio}acetophenone | COC1(C(OCC1)C)C=1C=C(SC1)SC1=CC=C(C=C1)C(C)=O | C18H20O3S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-{4-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]thien-2-ylthio}acetophenone oxime | 87% yield | COC1(C(OCC1)C)C=1C=C(SC1)SC1=CC=C(C=C1)/C(/C)=N/O | C18H21NO3S2
